US09301951B2
N-(2-methoxyethyl)-N-methyl-4-(2-(methyl(3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzyl)amino)ethyl)piperazine-1-carboxamide
This compound was prepared according to the procedure described for the synthesis of N-(2-methoxyethyl)-4-(2-(methyl(3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzyl)amino)ethyl)piperazine-1-carboxamide Example 208 substituting 2-methoxy-N-methylethanamine in place of 2-methoxyethanamine. LC-MS (ES, m/z): 829 [M+H]+ H-NMR (300 MHz, DMSO, ppm): 12.31 (s, 1H), 9.56 (t, J=3.6 Hz, 1H), 8.93 (d, J=6 Hz, 1H), 8.31 (d, J=6 Hz, 2H), 8.04 (s, 1H), 7.94 (d, J=9 Hz, 1H), 7.84-7.86 (m, 1H), 7.56-7.71 (m, 7H), 7.30 (d, J=9 Hz, 1H), 4.63 (d, J=3 Hz, 2H), 4.26 (s, 2H), 3.45 (t, J=6.6 Hz, 2H), 3.23-3.32 (m, 16H), 3.17 (s, 1H), 3.00 (s, 4H), 2.80 (s, 3H), 2.63 (s, 3H), 1.60-1.74 (m, 6H).

reactant | N-(2-methoxyethyl)-4-(2-(methyl(3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzyl)amino)ethyl)piperazine-1-carboxamide | COCCNC(=O)N1CCN(CC1)CCN(CC1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)=O)C | C44H53F3N8O4
reactant | 2-methoxy-N-methylethanamine | COCCNC | C4H11NO
product | N-(2-methoxyethyl)-N-methyl-4-(2-(methyl(3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzyl)amino)ethyl)piperazine-1-carboxamide | COCCN(C(=O)N1CCN(CC1)CCN(CC1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)=O)C)C | C45H55F3N8O4
